US08729263B2
To a stirred solution of 2-(3-(benzyloxy)-4-bromo-5-methoxyphenyl)-5-methyloxazole (197 mg, 0.526 mmol) in THF (1.3 mL) cooled to −78° C. was added n-butyl lithium (2.5 M in hexanes, 232 uL, 0.579 mmol). The solution was stirred for 15 minutes after which time trimethyl borate (235 uL, 2.11 mmol) was added and the solution was allowed to slowly warm to RT overnight. The reaction was quenched by addition of 0.1 M HCl and was diluted with ethyl acetate, washed with water, brine, dried over magnesium sulfate and concentrated. Flash column chromatography (12 g silica, 0-100% ethyl acetate in DCM over 30 column volumes) provided (2-(benzyloxy)-6-methoxy-4-(5-methyloxazol-2-yl)phenyl)boronic acid (63 mg) as a white foam. MS=340.1 (M+1). 1H NMR (400 MHz, CHLOROFORM-d) δ ppm 7.28-7.46 (m, 5H), 7.25 (d, J=1.01 Hz, 1H), 7.08 (br. s, 1H), 6.85 (d, J=1.01 Hz, 1H), 5.17 (s, 2H), 3.95 (s, 3H), 2.38 (d, J=1.52 Hz, 3H).

reactant | 2-(3-(benzyloxy)-4-bromo-5-methoxyphenyl)-5-methyloxazole | 0.526 mmol, 197 mg | C(C1=CC=CC=C1)OC=1C=C(C=C(C1Br)OC)C=1OC(=CN1)C | C18H16BrNO3
reactant | n-butyl lithium | 0.579 mmol, 2.5 M, 232 uL | C(CCC)[Li]
reactant | trimethyl borate | 2.11 mmol, 235 uL | B(OC)(OC)OC | C3H9BO3
solvent | THF | 1.3 mL | C1CCOC1 | C4H8O
product | (2-(benzyloxy)-6-methoxy-4-(5-methyloxazol-2-yl)phenyl)boronic acid | 63 mg | C(C1=CC=CC=C1)OC1=C(C(=CC(=C1)C=1OC(=CN1)C)OC)B(O)O | C18H18BNO5
